US05212320
To a solution of phenothiazine (1.00 g) in tetrahydrofuran (10 ml) was added potassium tert-butoxide (617 mg) at 0° C. The mixture was stirred at 0° C. for 20 minutes, and then a solution of methyl 3-(chloromethyl)benzoate (1.02 g) in tetrahydrofuran (10 ml) was added. The mixture was stirred at 25° C. for 3 hours, and then potassium tert-butoxide (1.02 g) was added. The mixture was stirred at 25° C. for 1 hour, and then evaporated. The residue was partitioned between ethyl acetate and 0.1N hydrochloric acid. The organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated. The residue was chromatographed on silica gel eluting with a mixture of hexane and ethyl acetate (40:1) to give tert-butyl 3-(phenothiazin-10-ylmethyl)benzoate (598 mg) as crystals.

reactant | phenothiazine | 1.00 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | potassium tert-butoxide | 617 mg | CC(C)([O-])C.[K+]
reactant | methyl 3-(chloromethyl)benzoate | 1.02 g | ClCC=1C=C(C(=O)OC)C=CC1 | C9H9ClO2
reactant | potassium tert-butoxide | 1.02 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl 3-(phenothiazin-10-ylmethyl)benzoate | 598 mg | C1=CC=CC=2SC3=CC=CC=C3N(C12)CC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C24H23NO2S
